Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
latex / bee venom (honey bee)
 
Attending: ___.
 
Chief Complaint:
Motor Vehicle Collision
 
Major Surgical or Invasive Procedure:
- R Posterior Wall Acetabulum ORIF ___ (Dr. ___
- Closed reduction and percutaneous pinning of left distal 
radius fracture (Dr. ___
 
History of Present Illness:
___ F s/p MVC, unrestrained driver in head-on collision. Taken to 
___, where she was found to have left 6th rib 
fracture, small pneumothorax, left wrist fracture, right 
acetabular fracture, and 6 cm facial lac. At OSH, she was noted 
to have seizure-like activity and was intubated. Left chest tube 
and foley were placed. She appears to have received a bolus of 
fosphenytoin between ___ and MedFlight. She was transferred via 
MedFlight to ___ for further evaluation and management.
 
Past Medical History:
PMH: seizures

PSH: gastric bypass
 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
___ EXAM: 
- Vitals: 100.3 97 107/86 100% 
- ___: eyes open
- HEENT: sutured head laceration, C collar 
- Pulmonary: upper airway sounds 
- Cardiac: pulses x 4 palpated 
- Abdomen: soft, nontender, distended secondary to obesity 
 
Discharge Physical Exam:
Gen: NAD
HEENT: well healing head laceration
CV: RRR no M/G/R
P: CTAB no W/R/R
Abd: S/NT/ND
Ext: cont. RLE numbness and weakness on dorsiflexion, eversion. 
TLD: none. 
 
Pertinent Results:
___ 11:39PM   GLUCOSE-122* UREA N-8 CREAT-0.4 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-110* TOTAL CO2-20* ANION GAP-14
___ 11:39PM   ALBUMIN-3.4* CALCIUM-8.3* PHOSPHATE-3.6 
MAGNESIUM-1.7
___ 11:39PM   PHENYTOIN-6.9* VALPROATE-<3*
___ 11:39PM   WBC-8.5# RBC-3.38* HGB-10.1* HCT-30.3* MCV-90 
MCH-29.9 MCHC-33.3 RDW-14.0 RDWSD-45.3
___ 11:39PM   NEUTS-82.9* LYMPHS-7.1* MONOS-8.9 EOS-0.5* 
BASOS-0.2 IM ___ AbsNeut-7.08* AbsLymp-0.61* AbsMono-0.76 
AbsEos-0.04 AbsBaso-0.02
___ 11:39PM   PLT COUNT-219
___ 11:39PM   ___ PTT-32.8 ___
___ 07:51PM   ___ PO2-32* PCO2-52* PH-7.27* TOTAL 
CO2-25 BASE XS--4 INTUBATED-INTUBATED
___ 07:51PM   O2 SAT-52
___ 04:30PM   PH-7.32* INTUBATED-INTUBATED
___ 04:30PM   GLUCOSE-96 LACTATE-1.8 NA+-140 K+-4.2 
CL--110* TCO2-18*
___ 04:30PM   freeCa-1.03*
___ 04:23PM   UREA N-12 CREAT-0.6
___ 04:23PM   LIPASE-48
___ 04:23PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:23PM URINE  HOURS-RANDOM
___ 04:23PM URINE  bnzodzpn-POS barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 04:23PM   WBC-18.3* RBC-3.96 HGB-11.8 HCT-35.8 MCV-90 
MCH-29.8 MCHC-33.0 RDW-13.8 RDWSD-45.4
___ 04:23PM   PLT COUNT-266
___ 04:23PM   ___ PTT-29.6 ___
___ 04:23PM   ___ 04:23PM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 04:23PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 04:23PM URINE  RBC-24* WBC-6* BACTERIA-NONE YEAST-NONE 
EPI-1
___ 04:23PM URINE  CA OXAL-RARE
___ 04:23PM URINE  MUCOUS-RARE

Imaging:

___: CXR:
Left sixth rib fracture, minimally displaced.  Additional 
fractures better 
seen on outside CT examinations performed earlier today. 
  
Low lung volumes with a left basilar consolidation, may reflect 
aspiration 
and/or atelectasis. 
  
Blunting of the left costophrenic angle may reflect small 
pleural effusion. 
  
___: CT Head:
No acute intracranial abnormality.  Subgaleal hematomas 
involving the right frontal subcutaneous tissues as well as left 
vertex with associated cutaneous staples noted. 

___: R femur fx
 
No femoral fracture.  Right acetabular fracture better 
characterized on same day CT performed at outside facility. 

FOREARM (AP & LAT) LEFT; WRIST(3 + VIEWS) LEFT; HAND (PA,LAT & 
OBLIQUE) LEFT:
Impacted, comminuted, and slightly displaced distal radial 
fracture.  No 
definite intra-articular component, this is difficult to 
entirely exclude.  Best appreciated on the lateral views, there 
is uplifting of the dorsal cortex. 

___ Pelvis with Judet Views:
Fracture through the posterior aspect of the right acetabulum is 
better 
evaluated on same day CT performed at an outside facility.  No 
evidence of 
dislocation.  The proximal right femur appears intact. 

___: MR ___ Spine
1. No evidence of fracture or intrinsic spinal cord signal 
abnormality. 
2. Multilevel degenerative changes, with disc bulges at L3-4 and 
L4-5 causing mild spinal canal and bilateral neural foraminal 
narrowing, as described above 

___: MR Head:
1. No acute intracranial pathology. 
2. Sphenoid and bilateral maxillary sinus air-fluid levels are 
likely due to intubation.

___: EEG:
This is an abnormal continuous ICU EEG monitoring study due to a 

background characterized by diffuse alpha/beta activity 
consistent with 
propofol effects, alternating with periods of generalized delta 
slowing 
consistent with a severe encephalopathy, non-specific with 
regards to 
etiology. There are no epileptiform discharges or electrographic 
seizures. 
Two pushbutton activations, presumably for patient movements, 
are without EEG correlate. In comparison to the prior day's 
recording, no seizures are 
present on today's study. 

___: CXR:
  
As compared to previous radiograph of 1 day earlier, a bilateral 
and 
asymmetrically distributed pattern of pulmonary edema has 
shifted in 
distribution and overall slightly worsened in severity.  No 
other relevant 
changes. 

  

 
Brief Hospital Course:
The patient is a ___ F s/p MVC, unrestrained driver in head-on 
collision. Taken to ___, where she was found to 
have left 6th rib fracture, small pneumothorax s/p CT placement, 
left wrist fracture, right acetabular fracture, and 6 cm facial 
lac. At OSH, she was noted to have seizure-like activity and was 
intubated. Left chest tube and foley were placed. She appeared 
to have received a bolus of fosphenytoin between ___ and 
MedFlighted to ___ for further evaluation and management.  
Upon arrival to ED, patient intubated, primary and secondary  
revealed above  documented lesions. She was transferred to 
Trauma SICU for close monitoring of seizure activity, 
ventilartoyr support. EEG obtained and neurology consulted. Per 
neurology team there were no seizure activity demonstrated on 
EEG. A CTA head/neck obtained demonstrated no  abnormal 
findings. Results from a lumbar puncture performed by neurology 
were within normal limits.  Her ICU course was remarkable for 
fevers on HD2.  She was worked up with a bronchoscopy and BAL 
which returned positive for GPCs. Since HD2, she was started on 
Vanc/cefepime. On HD3 the chest tube was discontinued with no 
residual PTX. On HD4, she passed RSBI, extubated successfully, 
passed bedside swallow evaluation and patient self-limited to 
sips due to pain w/swallowing. She was transferred out of the 
SICU on HD5 with no active issues and uneventful hospital stay 
summarized below. 

On HD8, the patient had her foley removed. She then experience 
some urinary retention, and the catheter was replaced. It was 
removed on the following evening, and she voided without 
difficulty. On HD10, the patient went to the OR with the hand 
surgery team for closed reduction and percutaneous pinning of 
left distal radius fracture. For more details, see operative 
report. She was taken from the OR to the PACU in stable 
condition, and then moved to the surgical floor. She recovered 
from this procedure well. ___ and OT continued to work with the 
patient, and by day of discharge, ___, the patient was deemed 
safe to return home. On the day of her discharge, she was was 
tolerating a regular oral diet, pain was well controlled with 
oral medications, she reported normal bowel function and 
voiding, and she was able to ambulate with assistance. All of 
her questions were answered to her satisfaction. 

 
Medications on Admission:
Unknown. 
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO BID 
please hold for loose stool 
3. Enoxaparin Sodium 30 mg SC Q12H Duration: 3 Weeks 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 30 mg/0.3 mL 30 mg SC every twelve (12) hours 
Disp #*56 Syringe Refills:*0
4. LeVETiracetam 1500 mg PO BID 
RX *levetiracetam 1,000 mg 1.5 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*0
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
do NOT drink alcohol or drive while taking this medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
6. Senna 8.6 mg PO BID:PRN constipation 
7. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB, wheezing 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Motor Vehicle Collision
Left 6th rib fracture
Left pneumothorax
Right acetabular fracture 
Left impacted/comminuted distal radial fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You presented to ___ on ___ after suffering a motor 
vehicle collision.  You were found to have a rib fracture, left 
lung puncture, a right hip fracture and a left radius fracture.  
You were admitted to the Trauma/Acute Care Surgery team for 
further medical treatment. 

On admission, you were noted to have seizure activity and 
Neurology was consulted.  You were started on Keppra and it is 
recommended you continue to take this medication for at least 
the next 6 (six) months.  Please do NOT drive for six months.  
You have a follow-up appointment scheduled with the outpatient 
Neurology clinic. 

You were evaluated by the Orthopaedics and Plastics teams.  On 
___, you were taken to the Operating Room and underwent 
surgery for your right hip fracture.  On ___, you had 
surgery to repair your left radius fracture.  You tolerated 
these procedures well.

You have worked with Physical and Occupational Therapy who 
recommend your discharge to rehab.  You are tolerating a regular 
diet and your pain is controlled.  You are now medically cleared 
to be discharged to rehab to continue your recovery. 

Please note the following discharge instructions:

* Your injury caused a left rib fracture which can cause severe 
pain and subsequently cause you to take shallow breaths because 
of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___